US06288061B1
2-(4-tert-Butylphenyl)-5-(4-nitrophenyl)-N-(2-thiazolyl)-imidazole-4-carboxamide (16.3 g) was dissolved in a mixed solvent of dioxane and methanol and hydrogenated with Raney nickel. The catalyst was filtered off and the residue was concentrated and crystallized from ethyl acetate and isopropyl ether to give 5-(4-aminophenyl)-2-(4-tert-butylphenyl)-N-(2-thiazolyl)imidazole-4-carboxamide (7.13 g). 1.0 g therefrom was converted to hydrochloride to give 5-(4-aminophenyl)-2-(4-tert-butylphenyl)-N-(2-thiazolyl)imidazole-4-carboxamide hydrochloride (0.48 g), melting point 270-272° C. (decomposition).

reactant | 2-(4-tert-Butylphenyl)-5-(4-nitrophenyl)-N-(2-thiazolyl)-imidazole-4-carboxamide | 16.3 g | C(C)(C)(C)C1=CC=C(C=C1)C=1NC(=C(N1)C(=O)NC=1SC=CN1)C1=CC=C(C=C1)[N+](=O)[O-] | C23H21N5O3S
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | methanol | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
product | 5-(4-aminophenyl)-2-(4-tert-butylphenyl)-N-(2-thiazolyl)imidazole-4-carboxamide | 7.13 g | NC1=CC=C(C=C1)C1=C(N=C(N1)C1=CC=C(C=C1)C(C)(C)C)C(=O)NC=1SC=CN1 | C23H23N5OS
